US07524845B2
Synthesis of 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(5-chloro-pyrazolo[3,4-b]pyridine-1-yl)-ethanone:
To a solution of 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-5-chloro-pyrazolo[3,4-b]pyridine-1-yl)-ethanone (0.037 mmol, 1 eq.) in 1.5 mL of dichloromethane under a nitrogen atmosphere cooled to −40° C., was added dropwise, 30 μl of 2.0 M solution of isopropyl magnesium chloride (0.056 mmol, 1.5 eq.) in THF. The resultant mixture was for 30 minutes at −40° C. followed by dropwise addition of an ammonium chloride aqueous (aq) solution at low temperature. The reaction solution was warmed to rt, diluted with 200 mL of EtOAc, washed with 50 mL of water, brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by HPLC to provide 5-mg final product: 1H NMR (400 MHz, CDCl3) δ 8.44 (d, 1H), 8.05(m, 1H), 7.23 (d, 1H), 6.50 (d, 1H), 6.43 (dd, 1H), 5.42 (s, 2H), 3.89 (s, 3H), 3.76 (m, 4H), 3.20 (m, 4H). LCMS observed for (M+H)+: 421.1.

reactant | 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-5-chloro-pyrazolo[3,4-b]pyridine-1-yl)-ethanone | 0.037 mmol, 1 eq. | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C=2C1=NC=C(C2)Cl)I)=O)OC | C19H18Cl2IN5O2
reactant | isopropyl magnesium chloride | 0.056 mmol, 1.5 eq. | C(C)(C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(5-chloro-pyrazolo[3,4-b]pyridine-1-yl)-ethanone | 5-mg | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=CC=2C1=NC=C(C2)Cl)=O)OC | C19H19Cl2N5O2
